US09315463B2
4-amino-5-fluoro-2-methoxybenzonitrile
To a mixture of methanol (10.48 mL, 0.25 mol) and anh. tetrahydrofuran (60 mL) was added dropwise a solution of potassium tert-butilate (6.76 g, 0.05 mol) in anh. tetrahydrofuran (52 mL) at 0° C. under nitrogen atmosphere. The mixture was stirred for minutes at room temperature and then 4-amino-2,5-difluorobenzonitrile (4 g, 0.02 mol) was added. The reaction mixture was stirred at 70° C. for 3 hours. The solvent was partially removed and ether was added into the mixture. The organic layer was washed with bicarbonate and brine, dried and filtered. The organic solvent was removed under reduced pressure to give the title compound as a yellow solid (97%), which was used in the next step without further purification.

reactant | methanol | 0.25 mol, 10.48 mL | CO | CH4O
reactant | 4-amino-2,5-difluorobenzonitrile | 0.02 mol, 4 g | NC1=CC(=C(C#N)C=C1F)F | C7H4F2N2
solvent | tetrahydrofuran | 52 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-amino-5-fluoro-2-methoxybenzonitrile | 97% | NC1=CC(=C(C#N)C=C1F)OC | C8H7FN2O
